US05134231
Under nitrogen stream, 50 % sodium hydride (5.28 g; 0.11 mole) was added to dry tetrahydrofuran (50 ml), and a solution of methallyl alcohol (7.2 g;0.1 mole) in dry tetrahydrofuran (20 ml) was portionwise added thereto with ice-cooling, followed by stirring for 30 minutes. A solution of benzyl bromide (17.1 g; 0.1 mole) in dry tetrahydrofuran (20 ml) was added thereto to quench the reaction. The reaction mixture was diluted with ethyl acetate and washed successively with lN hydrochloric acid, water and an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. Removal of the solvent under reduced pressure gave 1-benzyloxy-2-methyl-2-propene.

reactant | sodium hydride | 0.11 mole, 5.28 g | [H-].[Na+]
reactant | methallyl alcohol | 0.1 mole, 7.2 g | C(C(C)=C)O | C4H8O
reactant | benzyl bromide | 0.1 mole, 17.1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyloxy-2-methyl-2-propene | C(C1=CC=CC=C1)OCC(=C)C | C11H14O
